datasets/10k_Mayr_OG.csv
SMILES Labelled
"C[N+:21](C)=[CH2:20].C[Si:63](C)(C)[CH2:62][CH:11]([H:10])[C:71]1=[CH:72][CH:73]=[CH:74][CH:83]=[CH:82]1>>C[N:21](C)[CH2:20][H:10].C[Si:63](C)(C)[CH2:62][CH+:11][C:71]1=[CH:72][CH:73]=[CH:74][CH:83]=[CH:82]1 10,11=10,20;20,21=21"
"C1=CC=C([C:61]([CH-:10][C:71]2=[CH:72][CH:73]=[CH:74][CH:83]=[CH:82]2)=[O:62])C=C1.CC[O:33][C:22](/[CH:21]=[CH:20]/[C:41](=[O:42])[O:52]CC)=[O:23]>>CC[O:33][C:22](=[CH:21][CH:20]([CH:10]([C:61](C1=CC=CC=C1)=[O:62])[C:71]1=[CH:72][CH:73]=[CH:74][CH:83]=[CH:82]1)[C:41](=[O:42])[O:52]CC)[O-:23] 10=20;20,21=21,22;22,23=23"
"COC1=CC2=C(C=C1)[N+:23](C)=[CH:22][C:21]2=[CH:20][C:31]1=[CH:32][N:33](C)[C:42]2=[C:41]1C=C(OC)C=C2.ClC1=CC=C([S:61]([CH-:10]Cl)(=[O:62])=[O:72])C=C1>>COC1=CC2=C(C=C1)[N:23](C)[CH:22]=[C:21]2[CH:20]([CH:10](Cl)[S:61](C1=CC=C(Cl)C=C1)(=[O:62])=[O:72])[C:31]1=[CH:32][N:33](C)[C:42]2=[C:41]1C=C(OC)C=C2 10=20;20,21=21,22;22,23=23"
"CO[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[CH:32]=[C:33](OC)[C:24]1=[O:25].C[S+:61](C)/[CH:10]=[C:11](/C1=CC=C(Br)C=C1)[O-:12]>>CO[C:23]1=[C:24]([O-:25])[C:33](OC)=[CH:32][C:21]([CH:20]([CH:10]([C:11](C2=CC=C(Br)C=C2)=[O:12])[S+:61](C)C)[C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)=[CH:22]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"COC1=CC(CC2C(=O)N(C)C(C)(C)/[N+:23]2=[CH:22]\[CH:21]=[CH:20]\[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)=CC(OC)=C1OC.C[C:11]1=[CH:10][C:61]2=[C:62]([NH:12]1)[CH:63]=[CH:64][C:73](C)=[CH:72]2>>COC1=CC(CC2C(=O)N(C)C(C)(C)[N:23]2[CH:22]=[CH:21][CH:20]([CH:10]2[C:11](C)=[NH+:12][C:62]3=[C:61]2[CH:72]=[C:73](C)[CH:64]=[CH:63]3)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)=CC(OC)=C1OC 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC(C)(C)[P:10](C1=CC=CC=C1)C(C)(C)C.CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]=[C:21]2[C:22](=[O:23])C3=C(C=CC=C3)[C:32]2=[O:33])[CH:36]=[CH:35]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([P+:10](C2=CC=CC=C2)(C(C)(C)C)C(C)(C)C)[C:21]2=[C:22]([O-:23])C3=C(C=CC=C3)[C:32]2=[O:33])[CH:36]=[CH:35]1 10=20;20,21=21,22;22,23=23"
"FC1=C(F)C(F)=C([B-:11](C2=C(F)C(F)=C(F)C(F)=C2F)(C2=C(F)C(F)=C(F)C(F)=C2F)[H:10])C(F)=C1F.[CH:20](=[C:21]([C:22]#[N:23])[C:32]#[N:33])[C:41]1=[CH:42][CH:43]=[CH:44][CH:46]=[CH:45]1>>FC1=C(F)C(F)=C([B:11](C2=C(F)C(F)=C(F)C(F)=C2F)C2=C(F)C(F)=C(F)C(F)=C2F)C(F)=C1F.[H:10][CH:20]([C:21](=[C:22]=[N-:23])[C:32]#[N:33])[C:41]1=[CH:42][CH:43]=[CH:44][CH:46]=[CH:45]1 10,11=10,20;20,21=21,22;22,23=23"
"C[N:12](C)[C:11](=[N:10]CC1=CC=CC=C1)[N:62](C)C.Cl[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](Cl)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>C[N+:12](C)=[C:11]([N:10](CC1=CC=CC=C1)[CH:20]([C:31]1=[CH:32][CH:33]=[C:34](Cl)[CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[C:44](Cl)[CH:45]=[CH:46]1)[N:62](C)C 10,11=10,20;12=11,12"
"CC[O:62]/[C:11](=[C:10](\OC)[S:71](C1=CC=CC=C1)(=[O:72])=[O:82])[O-:12].CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CC[O:62][C:11]([C:10](OC)([C:20]([C:31]1=[CH:32][CH:33]=[C:34](N(C)C)[CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1)[S:71](C1=CC=CC=C1)(=[O:72])=[O:82])=[O:12] 10,11=10,20;12=11,12"
COC1=CC=CC=C1[P:10](C1=CC=CC=C1OC)C1=C(OC)C=CC=C1.Cl[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](Cl)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>COC1=CC=CC=C1[P+:10](C1=CC=CC=C1OC)(C1=C(OC)C=CC=C1)[CH:20]([C:31]1=[CH:32][CH:33]=[C:34](Cl)[CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[C:44](Cl)[CH:45]=[CH:46]1 10=20
"C1CC[N+:21](=[CH:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1.C[C:10]1=[C:11]([O:12][Si:63](C)(C)C)[O:72]CC1>>C[C:10]1([CH:20]([N:21]2CCCC2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)CC[O:72][C:11]1=[O+:12][Si:63](C)(C)C 10,11=10,20;12=11,12;20,21=21"
"C1=C[C:61]2=[C:62](C=C1)[N:72]=[CH:71][N-:10]2.Cl[C:20]1=[C:21](Cl)[C:22](=[O:23])[C:30](Cl)=[C:31](Cl)[C:32]1=[O:33]>>Cl[C:20]1([N:10]2[C:61]3=[C:62](C=CC=C3)[N:72]=[CH:71]2)[C:21](Cl)=[C:22]([O-:23])[C:30](Cl)=[C:31](Cl)[C:32]1=[O:33] 10=20;20,21=21,22;22,23=23"
"CCCCN1C=C[N+:63]([CH2:62][C@@H:61]2CCC[NH:10]2)=C1.Cl[C:20]1=[CH:21][C:22](=[O:23])[C:30](Cl)=[CH:31][C:32]1=[O:33]>>CCCCN1C=C[N+:63]([CH2:62][C@@H:61]2CCC[NH+:10]2[C:20]2(Cl)[CH:21]=[C:22]([O-:23])[C:30](Cl)=[CH:31][C:32]2=[O:33])=C1 10=20;20,21=21,22;22,23=23"
"CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1.FC(C1=CC=CC=C1)(C1=CC=CC=C1)C1CCC[N:14]1[C:13]1=[CH:12][CH:11]=[N:10][CH:61]=[CH:62]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([N:10]2[CH:11]=[CH:12][C:13](=[N+:14]3CCCC3C(F)(C3=CC=CC=C3)C3=CC=CC=C3)[CH:62]=[CH:61]2)([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10,11=10,20;12,13=11,12;14=13,14"
